US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(4-ethoxy-3-nitro-phenyl)-acrylonitrile (Compound 40)
4-Ethoxy-3-nitrobenzaldehyde (586 mg) and 3,4-dimethoxybenzyl cyanide (532 mg) were subjected to condensation in accordance with process B of (production process 2), to thereby produce the target product (425 mg, yield: 40%).

reactant | 4-Ethoxy-3-nitrobenzaldehyde | 586 mg | C(C)OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C9H9NO4
reactant | 3,4-dimethoxybenzyl cyanide | 532 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(4-ethoxy-3-nitro-phenyl)-acrylonitrile | 425 mg, yield: 40% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC(=C(C=C1)OCC)[N+](=O)[O-] | C19H18N2O5
